US08304419B2
To a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile (900 mg, 2.53 mmol) and 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid (813 mg, 2.53 mmol) in DMF (10 ml) was added HOBT (388 mg, 2.53 mmol) and EDC (485 mg, 2.53 mmol) and the reaction mixture was stirred for 6 hours at rt. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via silica gel chromatography to give N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-2-methyl-1H-imidazole-5-carboxamide (0.560 g, 1.124 mmol, 44% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.68 (s, 1H), 7.29-7.45 (m, 3H), 7.25 (s, 1H), 4.63 (s, 2H), 2.34 (s, 3H). LC-MS (ES+) m/z 496.87, [M+H].

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile | 2.53 mmol, 900 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Br)F | C14H9BrClFN2O
reactant | 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid | 2.53 mmol, 813 mg | ClC=1N=C(NC1C(=O)O)C | C5H5ClN2O2
reactant | HOBT | 2.53 mmol, 388 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 2.53 mmol, 485 mg
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-2-methyl-1H-imidazole-5-carboxamide | 1.124 mmol, 0.560 g, 44% yield | BrC=1C=C(C=C(C1)C#N)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=C(N1)C)Cl)F | C19H12BrCl2FN4O2
